US04160839
Preparation of 1-Dimethylcarbamyl-3-tert.butyl-5-allylthio-1H-1,2,4-triazole
A solution of 56 g (0.284 mol) of 3-tert.butyl-5-allylthio-4H-1,2,4-triazole and 31.2 g (0.29 mol) of dimethylcarbamyl chloride in 300 ml of pyridine was maintained at reflux temperature for 16 hrs. After the pyridine was removed at reduced pressure on the rotary evaporator, water was added followed by chloroform. The organic layer was washed with successive portions of dilute hydrochloric acid, water and brine, then dried over Na2SO4. The solvent was removed in vacuo to give 66.3 g of an oil, nD26 1.5126.

reactant | 3-tert.butyl-5-allylthio-4H-1,2,4-triazole | 0.284 mol, 56 g | C(C)(C)(C)C1=NN=C(N1)SCC=C | C9H15N3S
reactant | dimethylcarbamyl chloride | 0.29 mol, 31.2 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 1-Dimethylcarbamyl-3-tert.butyl-5-allylthio-1H-1,2,4-triazole | 66.3 g | CN(C(=O)N1N=C(N=C1SCC=C)C(C)(C)C)C | C12H20N4OS
